US04977146
STEP 1L: 2-[3-(2-Oxopropylsulfonyl)-4-n-propoxy 5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydro-furan
A mixture of 1.2 g of 2-[3-(2-oxopropylsufonyl)-4-n-propoxy-5-benzyloxy- phenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran, 400 mg 10% Pd/C, 1-2 drops of acetic acid in 100 mL of ethyl acetate was stirred under H2 at 40 psi for 45 minutes. The reaction mixture was filtered over a bed of celite and evaporated in vacuo to yield the title compound: NMR(200 MHz, CDCl3) δ 1.10 (t, CH2CH2CH3), 1.92 (m, CH2CH2CH3), 1.9-2.6 (m, 3-CH2 & 4-CH2), 2.40 (s, CH3C(O)CH2), 3.86 (s, OCH3), 3.90 (s, 2 OCH3), 4.12 (t, OCH2CH2CH3), 4.42 (s, CH3C(O)CH2), 5.10-5.28 (m, 2-CH & 5-CH), 6.64 (s, 5-ArH), 7.35 & 7.47(2 d, 2-ArH).

reactant | 2-[3-(2-oxopropylsufonyl)-4-n-propoxy-5-benzyloxy- phenyl]-5-(3,4,5-trimethoxyphenyl) tetrahydrofuran | 1.2 g | O=C(CS(=O)(=O)C=1C=C(C=C(C1OCCC)OCC1=CC=CC=C1)C1OC(CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C32H38O9S
catalyst | acetic acid | 1-2 drops | C(C)(=O)O | C2H4O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 400 mg | [Pd] | Pd
product | 2-[3-(2-Oxopropylsulfonyl)-4-n-propoxy 5-hydroxyphenyl]-5-(3,4,5-trimethoxyphenyl)tetrahydro-furan | O=C(CS(=O)(=O)C=1C=C(C=C(C1OCCC)O)C1OC(CC1)C1=CC(=C(C(=C1)OC)OC)OC)C | C25H32O9S
